US08039460B2
Step C: 1-Methyl-1,3,8-triazaspiro[4.5]decane-2,4-dione
Palladium (10% on carbon; 1.0 g) was added to a solution of benzyl 1-methyl-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxylate (7.82 g, 24.6 mmol) in ethanol (100 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 2 h, methanol (50 mL) was added to the reaction mixture and the mixture was continued to be stirred under hydrogen (1 atm). After 4 days, the mixture was filtered through celite, washed with acetone and concentrated. The mixture was diluted in acetic acid (50 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 2 h, the mixture was filtered through celite, and concentrated to give the acetate salt of the title compound (2.98 g). MS 184.1 (M+1).

reactant | benzyl 1-methyl-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxylate | 24.6 mmol, 7.82 g | CN1C(NC(C12CCN(CC2)C(=O)OCC2=CC=CC=C2)=O)=O | C16H19N3O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Palladium | 1.0 g | [Pd] | Pd
product | 1-Methyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 2.98 g | CN1C(NC(C12CCNCC2)=O)=O | C8H13N3O2
